US06043254
(b) 1-acetyl-3-[1-chlor-1-(4-methyl-phenyl)methylidene]-5-nitro-2-indolinone
3.55 g (10.5 mmol) of 1-acetyl-3-[1-hydroxy-1-(4-methyl-phenyl)methylidene}-5-nitro-2-indolinone and 2.40 g (11.5 mmol) of PCl5 are heated in 60 ml toluene for 2 hours at 80° C. The mixture is evaporated down in vacuo, fresh toluene is added to the evaporation residue, it is evaporated down again and this procedure is repeated once more. The evaporation residue is dissolved in a little toluene with heating. During slow cooling an isomer, probably the (Z) isomer, crystallised out. A mixture of the (Z) and (E) isomers was also obtained from the mother liquor by column chromatography on silica gel with CH2Cl2.

reactant | 1-acetyl-3-[1-hydroxy-1-(4-methyl-phenyl)methylidene}-5-nitro-2-indolinone | 10.5 mmol, 3.55 g | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=C(C=C1)C)O)=O | C18H14N2O5
reactant | PCl5 | 11.5 mmol, 2.40 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 1-acetyl-3-[1-chlor-1-(4-methyl-phenyl)methylidene]-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=C(C=C1)C)Cl)=O | C18H13ClN2O4
